US07393865B2
In a closed pressure vessel methanesulfonic acid 2-(6-methyl-benzo[b]thiophen-2-yl)-ethyl ester from the previous step was taken up in MeOH (30 mL) and a 40% solution of dimethylamine in MeOH (30 mL) was added. The mixture was stirred for 2 hours at 90° C., cooled down to room temperature and concentrated in vacuo to afford 3.55 g of dimethyl-[2-(6-methyl-benzo[b]thiophen-2-yl)-ethyl]-amine (97%).

reactant | methanesulfonic acid 2-(6-methyl-benzo[b]thiophen-2-yl)-ethyl ester | CC=1C=CC2=C(SC(=C2)CCOS(=O)(=O)C)C1 | C12H14O3S2
reactant | dimethylamine | CNC | C2H7N
solvent | MeOH | 30 mL | CO | CH4O
solvent | MeOH | 30 mL | CO | CH4O
product | dimethyl-[2-(6-methyl-benzo[b]thiophen-2-yl)-ethyl]-amine | 3.55 g, 97% | CN(CCC1=CC2=C(S1)C=C(C=C2)C)C | C13H17NS
